US07465730B2
Utilizing the general procedure outlined in Example 48, 1-[4-acetyl-1-(3-chloro-4-ethoxy-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone and hydrazine reacted to give 6-(3-Chloro-4-ethoxy-phenyl)-1,4,5,7-tetramethyl-6H-pyrrolo[3,4-d]pyridazine as yellow solid: 1H NMR (CD3OD, 500 MHz) δ 7.47 (s, 1H), 7.32 (d, 1H), 7.25 (d, 1H), 4.27 (q, 2H), 2.79 (s, 6H), 2.48 (s, 6H), 1.53 (t, 3H); MS (ESI) 330 (M+H)+.

reactant | 1-[4-acetyl-1-(3-chloro-4-ethoxy-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone | C(C)(=O)C=1C(=C(N(C1C)C1=CC(=C(C=C1)OCC)Cl)C)C(C)=O | C18H20ClNO3
reactant | hydrazine | NN | H4N2
product | 6-(3-Chloro-4-ethoxy-phenyl)-1,4,5,7-tetramethyl-6H-pyrrolo[3,4-d]pyridazine | ClC=1C=C(C=CC1OCC)N1C(=C2C(=NN=C(C2=C1C)C)C)C | C18H20ClN3O
